US08389720B2
N-[(1-methyl-2-oxo-1,2-dihydroquinolin-3-yl)methyl]-N-(3-methylpyrrolidin-3-yl)cyclohexanecarboxamide
N-(1-benzyl-3-methylpyrrolidin-3-yl)-N-[(1-methyl-2-oxo-1,2-dihydroquinolin-3-yl)methyl]cyclohexanecarboxamide (1750 mg, 3.71 mmol) and ammonium formate (936 mg, 14.84 mmol) were combined in MeOH (37 mL). 10% Pd/C (350 mg, 3.288 mmol) was added as a slurry in MeOH and the reaction heated to 60° C. for 15 hours. The reaction mixture was filtered through a 0.45 um syringe-tip filter and concentrated in vacuo. The resulting material was partitioned between CH2Cl2 and satd. bicarb, the aqueous portion extracted 3×CH2Cl2, and the organic portion dried (Na2SO4) then concentrated in vacuo. This material was carried on without further purification. 1.5 g, 106%.

reactant | N-(1-benzyl-3-methylpyrrolidin-3-yl)-N-[(1-methyl-2-oxo-1,2-dihydroquinolin-3-yl)methyl]cyclohexanecarboxamide | 3.71 mmol, 1750 mg | C(C1=CC=CC=C1)N1CC(CC1)(C)N(C(=O)C1CCCCC1)CC=1C(N(C2=CC=CC=C2C1)C)=O | C30H37N3O2
reactant | ammonium formate | 14.84 mmol, 936 mg | C(=O)[O-].[NH4+]
solvent | MeOH | 37 mL | CO | CH4O
catalyst | Pd/C | 3.288 mmol, 350 mg | [Pd] | Pd
product | N-[(1-methyl-2-oxo-1,2-dihydroquinolin-3-yl)methyl]-N-(3-methylpyrrolidin-3-yl)cyclohexanecarboxamide | CN1C(C(=CC2=CC=CC=C12)CN(C(=O)C1CCCCC1)C1(CNCC1)C)=O | C23H31N3O2
